US07666888B2
3-(1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}pyrrolidin-3-yl)pyridine
To 5-(4-methylphenyl)isoxazole-4-carbonyl chloride (15 mg, 0.068 mmol) in dichloromethane (1 mL) was added 3-pyrrolidin-3-ylpyridine (11 mg, 0.074 mmol, 1.1 eq.), and the reaction mixture was stirred for 1 h. The solvent was removed, and the residue was purified by preparative reverse-phase HPLC to give the title compound. HRMS (ESI, pos. ion) m/z calcd for C20H19N3O2: 333.1477, found 333.1471.

reactant | 5-(4-methylphenyl)isoxazole-4-carbonyl chloride | 0.068 mmol, 15 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)Cl | C11H8ClNO2
reactant | 3-pyrrolidin-3-ylpyridine | 0.074 mmol, 11 mg, 1.1 eq. | N1CC(CC1)C=1C=NC=CC1 | C9H12N2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-(1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}pyrrolidin-3-yl)pyridine | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC(CC1)C=1C=NC=CC1 | C20H19N3O2
